US03946009
A mixture of 2-hydroxy-3-morpholino-5-bromopyrazine (1 g.) in 100 ml. of concentrated ammonium hydroxide is heated overnight at 100°-140° C. in a sealed tube to give 2-hydroxy-3-morpholino-5-aminopyrazine.

reactant | 2-hydroxy-3-morpholino-5-bromopyrazine | 1 g | OC1=NC=C(N=C1N1CCOCC1)Br | C8H10BrN3O2
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 2-hydroxy-3-morpholino-5-aminopyrazine | OC1=NC=C(N=C1N1CCOCC1)N | C8H12N4O2
